US04013660
7-benzyl-3-chloro-6(diethylamino)-7H-indolo[3,2-b]-[1,5]benzoxazepine.
A mixture of 7.48g of 3-chloro-7-benzyl-7H-indolo[3,2-b][1,5]benzoxazepine-6(5H)-one and 5.25g of phosphorous pentachloride in 200ml of benzene was stirred at reflux for 41/2 hours. A yellow solid precipitated. To this suspension was added at reflux with stirring, 14.6g of diethylamine. The reaction was stirred at reflux for another 2 hours, cooled, diluted with an equal volume of ether, washed twice with H2O, dried and concentrated to an orange oil. The oil crystallized on rubbing with ethanol. Recrystallization for ethanol gave analytical material, mp. 132°-4°.

reactant | 3-chloro-7-benzyl-7H-indolo[3,2-b][1,5]benzoxazepine-6(5H)-one | 7.48g | ClC1=CC=C2C(=C1)NC1=C2OC2=C(N(C1=O)CC1=CC=CC=C1)C=CC=C2 | C22H15ClN2O2
reactant | phosphorous pentachloride | 5.25g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | benzene | 200ml | C1=CC=CC=C1 | C6H6
product | 7-benzyl-3-chloro-6(diethylamino)-7H-indolo[3,2-b]-[1,5]benzoxazepine | C(C1=CC=CC=C1)N1C(=C2C(OC3=C1C=CC=C3)=C3C=CC(=CC3=N2)Cl)N(CC)CC | C26H24ClN3O
